US07465815B2
N-Benzyl-N-(3-(4-isopropylbenzyl)-4-hydroxy-2,6-dimethylphenyl)-3,3-dimethylbutanamide
Using N-benzyl-N-(3-(4-isopropylbenzyl)-4-methoxy-2,6-dimethylphenyl)-3,3-dimethylbutanamide obtained in Reference Example 332, the title compound was synthesized in the same manner as in Reference Example 335. Yield 83%. Melting point: 167-168° C. (ethyl acetate-hexane).

reactant | N-benzyl-N-(3-(4-isopropylbenzyl)-4-methoxy-2,6-dimethylphenyl)-3,3-dimethylbutanamide | C(C1=CC=CC=C1)N(C(CC(C)(C)C)=O)C1=C(C(=C(C=C1C)OC)CC1=CC=C(C=C1)C(C)C)C | C32H41NO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | N-Benzyl-N-(3-(4-isopropylbenzyl)-4-hydroxy-2,6-dimethylphenyl)-3,3-dimethylbutanamide | Yield 83% | C(C1=CC=CC=C1)N(C(CC(C)(C)C)=O)C1=C(C(=C(C=C1C)O)CC1=CC=C(C=C1)C(C)C)C | C31H39NO2
